US04460580
A solution of 31 g of crude N-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethyl]-N-[2-(3,5-dibenzyloxyphenyl)-2-hydroxy-ethyl]-benzylamine in 300 ml of methanol is hydrogenated under normal conditions over 6 g of palladium-on-charcoal catalyst (5%) until 3 mol equivalents of hydrogen have been taken up. The catalyst is filtered off, the filtrate is evaporated and the residue is dissolved in 200 ml of isopropanol. Filtering through silica gel and evaporating the filtrate yields α-[N-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethyl]aminomethyl]-3,5-dihydroxy-benzyl alcohol in the form of a brownish foam. After recrystallisation from ethylacetate/methanol the compound is obtained in pure state with a melting point of 203°-205°, and contains 1/4 mol of crystal-water. The compound is characterised by the following signals in the proton nuclear magnetic resonance spectrum in hexadeuterodimethylsulfoxide as the solvent:

reactant | N-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethyl]-N-[2-(3,5-dibenzyloxyphenyl)-2-hydroxy-ethyl]-benzylamine | 31 g | C(N)(=O)C=1C=C(OCCN(CC(O)C2=CC(=CC(=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)CC2=CC=CC=C2)C=CC1O | C38H38N2O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium-on-charcoal | 6 g | [Pd] | Pd
product | α-[N-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethyl]aminomethyl]-3,5-dihydroxy-benzyl alcohol | C(N)(=O)C=1C=C(OCCNCC(C2=CC(=CC(=C2)O)O)O)C=CC1O | C17H20N2O6
